US05633379
0.55 g (1.3 mmol) of 4-chloro-6-nitro-N-(3-phenylpropylthio)acetyl-anthranilic acid methyl ester are placed in 6 ml of tetrahydrofuran at 0° under nitrogen. 2.6 ml of a 1-molar tetrahydrofuran solution of sodium bis-trimethylsilylamide are added dropwise thereto. The mixture is then stirred for 1 hour at 0°. The reaction mixture is poured into 50 ml of 2N hydrochloric acid/ice and extracted with ethyl acetate. The organic phase is dried over sodium sulfate, filtered and concentrated by evaporation. The residue is taken up in a small amount of ethyl acetate, and hexane is added until precipitation begins. The precipitate formed is filtered off with suction and dried. 374 mg (73% of theory) of 7-chloro-5-nitro-4-hydroxy-3-(3-phenylpropylthio)-2(1H)-quinolone are obtained in the form of red crystals having a melting point of 177°-184°.

reactant | 4-chloro-6-nitro-N-(3-phenylpropylthio)acetyl-anthranilic acid methyl ester | 1.3 mmol, 0.55 g | COC(C=1C(NC(CSCCCC2=CC=CC=C2)=O)=CC(=CC1[N+](=O)[O-])Cl)=O | C19H19ClN2O5S
reactant | sodium bis-trimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1-molar | O1CCCC1 | C4H8O
product | 7-chloro-5-nitro-4-hydroxy-3-(3-phenylpropylthio)-2(1H)-quinolone | 374 mg, 73% | ClC1=CC(=C2C(=C(C(NC2=C1)=O)SCCCC1=CC=CC=C1)O)[N+](=O)[O-] | C18H15ClN2O4S
